* /home/shabbarvejlani/eSim-Workspace/epc/epc.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sat 08 Oct 2022 11:07:21 PM IST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_X1-Pad1_ Net-_U6-Pad2_ Net-_X1-Pad1_ Net-_X1-Pad4_ Net-_X1-Pad5_ GND epc_unit		
X3  Net-_X3-Pad1_ Net-_X1-Pad4_ Net-_X3-Pad1_ Net-_X3-Pad4_ Net-_X1-Pad5_ GND epc_unit		
X5  Net-_X1-Pad1_ Net-_X3-Pad4_ Net-_X1-Pad1_ Net-_X5-Pad4_ Net-_X1-Pad5_ GND epc_unit		
X7  Net-_X3-Pad1_ Net-_X5-Pad4_ Net-_X3-Pad1_ COMP Net-_X1-Pad5_ GND epc_unit		
X6  Net-_X1-Pad1_ Net-_X6-Pad2_ Net-_X1-Pad1_ Net-_X4-Pad2_ Net-_X1-Pad5_ GND epc_unit		
X4  Net-_X3-Pad1_ Net-_X4-Pad2_ Net-_X3-Pad1_ Net-_X2-Pad2_ Net-_X1-Pad5_ GND epc_unit		
X2  Net-_X1-Pad1_ Net-_X2-Pad2_ Net-_X1-Pad1_ Net-_U5-Pad1_ Net-_X1-Pad5_ GND epc_unit		
v1  Net-_X1-Pad5_ GND DC		
v2  START GND pulse		
v3  Net-_X1-Pad1_ GND DC		
v4  Net-_X3-Pad1_ GND DC		
scmode1  SKY130mode		
U2  COMP plot_v1		
U1  START plot_v1		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ dig_nand2		
X8  Net-_X3-Pad1_ Net-_U7-Pad2_ Net-_X3-Pad1_ Net-_X6-Pad2_ Net-_X1-Pad5_ GND epc_unit		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ dig_nand2		
U9  COMP Net-_U10-Pad1_ adc_bridge_1		
U8  START Net-_U10-Pad2_ adc_bridge_1		
U4  START Net-_U3-Pad1_ adc_bridge_1		
U5  Net-_U5-Pad1_ Net-_U3-Pad2_ adc_bridge_1		
U6  Net-_U3-Pad3_ Net-_U6-Pad2_ dac_bridge_1		
U7  Net-_U10-Pad3_ Net-_U7-Pad2_ dac_bridge_1		

.end
