* /home/shabbarvejlani/esim-workspace/epc/epc.cir

.include epc_unit.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_x1-pad1_ net-_u6-pad2_ net-_x1-pad1_ net-_x1-pad4_ net-_x1-pad5_ gnd epc_unit
x3 net-_x3-pad1_ net-_x1-pad4_ net-_x3-pad1_ net-_x3-pad4_ net-_x1-pad5_ gnd epc_unit
x5 net-_x1-pad1_ net-_x3-pad4_ net-_x1-pad1_ net-_x5-pad4_ net-_x1-pad5_ gnd epc_unit
x7 net-_x3-pad1_ net-_x5-pad4_ net-_x3-pad1_ comp net-_x1-pad5_ gnd epc_unit
x6 net-_x1-pad1_ net-_x6-pad2_ net-_x1-pad1_ net-_x4-pad2_ net-_x1-pad5_ gnd epc_unit
x4 net-_x3-pad1_ net-_x4-pad2_ net-_x3-pad1_ net-_x2-pad2_ net-_x1-pad5_ gnd epc_unit
x2 net-_x1-pad1_ net-_x2-pad2_ net-_x1-pad1_ net-_u5-pad1_ net-_x1-pad5_ gnd epc_unit
v1 net-_x1-pad5_ gnd  dc 1.8
v2  start gnd pulse(0 1.8 5e-6 1e-9 1e-9 5e-6 10e-6)
v3 net-_x1-pad1_ gnd  dc 1.2
v4 net-_x3-pad1_ gnd  dc 0.2
* s c m o d e
* u2  comp plot_v1
* u1  start plot_v1
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ dig_nand2
x8 net-_x3-pad1_ net-_u7-pad2_ net-_x3-pad1_ net-_x6-pad2_ net-_x1-pad5_ gnd epc_unit
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ dig_nand2
* u9  comp net-_u10-pad1_ adc_bridge_1
* u8  start net-_u10-pad2_ adc_bridge_1
* u4  start net-_u3-pad1_ adc_bridge_1
* u5  net-_u5-pad1_ net-_u3-pad2_ adc_bridge_1
* u6  net-_u3-pad3_ net-_u6-pad2_ dac_bridge_1
* u7  net-_u10-pad3_ net-_u7-pad2_ dac_bridge_1
a1 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] u3
a2 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad3_ ] u10
a3 [comp ] [net-_u10-pad1_ ] u9
a4 [start ] [net-_u10-pad2_ ] u8
a5 [start ] [net-_u3-pad1_ ] u4
a6 [net-_u5-pad1_ ] [net-_u3-pad2_ ] u5
a7 [net-_u3-pad3_ ] [net-_u6-pad2_ ] u6
a8 [net-_u10-pad3_ ] [net-_u7-pad2_ ] u7
* Schematic Name:                             dig_nand2, NgSpice Name: dig_nand2
.model u3 dig_nand2(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dig_nand2, NgSpice Name: dig_nand2
.model u10 dig_nand2(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=0.5 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=0.5 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.5 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0.5 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.5 out_high=1 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 100e-12 10e-06 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(comp)
plot v(start)
.endc
.end
