* /home/shabbarvejlani/esim-2.3/library/subcircuitlibrary/epc_unit/epc_unit.cir

xsc3 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc3-pad3_ net-_sc3-pad4_ sky130_fd_pr__nfet_01v8 
xsc4 net-_sc3-pad3_ net-_sc4-pad2_ net-_sc3-pad4_ net-_sc3-pad4_ sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc2 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc1-pad1_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
* u1  net-_sc1-pad2_ net-_sc2-pad2_ net-_sc4-pad2_ net-_sc3-pad4_ net-_sc1-pad3_ net-_sc2-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
