* Subcircuit epc_unit
.subckt epc_unit net-_sc1-pad2_ net-_sc2-pad2_ net-_sc4-pad2_ net-_sc3-pad4_ net-_sc1-pad3_ net-_sc2-pad1_ 
* /home/shabbarvejlani/esim-2.3/library/subcircuitlibrary/epc_unit/epc_unit.cir
xsc3 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc3-pad3_ net-_sc3-pad4_ sky130_fd_pr__nfet_01v8
xsc4 net-_sc3-pad3_ net-_sc4-pad2_ net-_sc3-pad4_ net-_sc3-pad4_ sky130_fd_pr__nfet_01v8
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8
xsc2 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc1-pad1_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8
* Control Statements

.ends epc_unit